US07521461B2
N-Ethyl-N-(2-fluorobenzyl)-2-(4-hydroxyphenoxy)acetamide (0.177 g, 0.586 mmol) was dissolved in acetonitrile (10 ml), methyl 2-(bromomethyl)benzoate (0.147 g, 0.642 mmol) and dipotassium carbonate (0.161 g, 1.167 mmol) were added. The solution was stirred for 2 hours at 60° C. EtOAc (20 ml) was added and the organic phase was washed with two portions of brine (2×20 ml, aq). The organic layer was dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by preparative HPLC (started with isocratic acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4) and the solvent was removed by evaporation to give 0.242 g of methyl 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethoxy}phenoxy)methyl]benzoate (yield 91.9%).

reactant | N-Ethyl-N-(2-fluorobenzyl)-2-(4-hydroxyphenoxy)acetamide | 0.586 mmol, 0.177 g | C(C)N(C(COC1=CC=C(C=C1)O)=O)CC1=C(C=CC=C1)F | C17H18FNO3
reactant | methyl 2-(bromomethyl)benzoate | 0.642 mmol, 0.147 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | dipotassium carbonate | 1.167 mmol, 0.161 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethoxy}phenoxy)methyl]benzoate | 0.242 g, yield 91.9% | C(C)N(C(COC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)=O)CC1=C(C=CC=C1)F | C26H26FNO5
